US08530475B2
4-[3-Hydroxy-4-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-butyl]-6-methoxy-1H-indole-2-carboxylic acid methyl ester
6-Methoxy-4-(2-oxiranyl-ethyl)-1H-indole-2-carboxylic acid methyl ester (120 mg, 0.43 mmol), Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene (114 mg, 0.43 mmol), DIPEA (0.2 mL, 1.13 mmol), ethanol (3 mL), dichloromethane (2 mL) were heated for 1200 sec. at 130° C. in a μW reaction tube. The solvent was evaporated under reduced pressure to yield a crude solid which was then purified with flash chromatography gradient [20% Ethyl acetate/heptane to 100% Ethyl acetate] to yield the title compound as a residue.

reactant | 6-Methoxy-4-(2-oxiranyl-ethyl)-1H-indole-2-carboxylic acid methyl ester | 0.43 mmol, 120 mg | COC(=O)C=1NC2=CC(=CC(=C2C1)CCC1OC1)OC | C15H17NO4
reactant | Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | 0.43 mmol, 114 mg | C1=C(C=CC2=CC=CC=C12)N1[C@H]2C\C=C/C[C@@H](C1)NC2 | C18H20N2
reactant | DIPEA | 1.13 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethanol | 3 mL | C(C)O | C2H6O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-[3-Hydroxy-4-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-butyl]-6-methoxy-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC(=CC(=C2C1)CCC(CN1C2CC=CCC(C1)N(C2)C2=CC1=CC=CC=C1C=C2)O)OC | C33H37N3O4
